US05102877
To a solution of 4-acetyl-1-benzyl-1,2,3,6-tetrahydropyridine (9.63 g) and benzyloxycarbonyl chloride (9.06 ml) in toluene was heated at 85° C. for 8 hours. After the solvent was removed in vacuo, the residual solution was dissolved in ethyl acetate (100 ml), washed with saturated aqueous sodium hydrogen carbonate (100 ml×3) and brine (100 ml) successively. The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo to give an oil, which was chromatographed on silica gel (500 ml) eluting with a mixture of hexane and ethyl acetate (1:1, V/V) to give 4-acetyl-1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine (10.2 g).

reactant | 4-acetyl-1-benzyl-1,2,3,6-tetrahydropyridine | 9.63 g | C(C)(=O)C=1CCN(CC1)CC1=CC=CC=C1 | C14H17NO
reactant | benzyloxycarbonyl chloride | 9.06 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-acetyl-1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridine | 10.2 g | C(C)(=O)C=1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H17NO3
